US07026349B2
d) 4-Chloro-3-((R)-1-methyl-pyrrolidin-3-yloxy)aniline
To a cooled (0° C.) solution of 4-chloro-3-hydroxyphenylcarbamic acid tert-butyl ester (55 g, 0.23 mol), (S)-1-methyl-pyrrolidin-3-ol (24 g, 0.24 mol), and triphenylphosphine (89 g, 0.34 mol) in THF (1.1 L) was added dropwise via addition funnel a solution of DIAD (67 mL, 0.34 mol) in THF (100 mL) over 1 h. The resultant solution was allowed to slowly warm to ambient temperature and maintained for 16 h. The THF was removed in vacuo and the residue treated with 6 N HCl (650 mL). The resultant mixture was stirred at room temperature for 4 h, at which time it was diluted with water (500 mL) and the filtered to remove the triphenylphosphine oxide. The filtrate was washed with EtOAc (3×1 L) and chloroform (5×1 L) to remove additional reaction by-products. The aqueous layer was then basified with solid NaOH pellets and extracted with ether (2×1 L) and EtOAc (2×1 L). The combined organic layers were washed with saturated NaHCO3 (2×1 L) and brine (1 L), dried (MgSO4), and concentrated to give 40 g (80%) of the title compound: MS (ES+) m/e [M+H]+227.

reactant | 4-chloro-3-hydroxyphenylcarbamic acid tert-butyl ester | 0.23 mol, 55 g | C(C)(C)(C)OC(NC1=CC(=C(C=C1)Cl)O)=O | C11H14ClNO3
reactant | (S)-1-methyl-pyrrolidin-3-ol | 0.24 mol, 24 g | CN1C[C@H](CC1)O | C5H11NO
reactant | triphenylphosphine | 0.34 mol, 89 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 0.34 mol, 67 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 1.1 L | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-Chloro-3-((R)-1-methyl-pyrrolidin-3-yloxy)aniline | 40 g, 80% | ClC1=C(C=C(N)C=C1)O[C@H]1CN(CC1)C | C11H15ClN2O
